US07807274B2
There were mixed 20.3 g (0.15 mole) of acetanilide, 73.1 g (0.18 mole) of 4,4′-diiodobiphenyl, 22.1 g (0.16 mole) of anhydrous potassium carbonate, 2.16 g (0.034 mole) of copper powder and 35 ml of n-dodecane, followed by reaction at 190 to 205° C. for 10 hours. The reaction product was extracted with 200 ml of toluene, and the insoluble matter was removed by filtration. Then, the filtrate was concentrated to dryness. The resulting solid matter was purified by column chromatography (carrier: silica gel, eluate: toluene/ethyl acetate=6/1) to obtain 40.2 g (yield: 64.8%) of N-(4′-iodobiphenylyl)acetanilide. The melting point was 135.0 to 136.0° C.

reactant | acetanilide | 0.15 mole, 20.3 g | C(C)(=O)NC1=CC=CC=C1 | C8H9NO
reactant | 4,4′-diiodobiphenyl | 0.18 mole, 73.1 g | IC1=CC=C(C=C1)C1=CC=C(C=C1)I | C12H8I2
reactant | potassium carbonate | 0.16 mole, 22.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-dodecane | 35 ml | CCCCCCCCCCCC | C12H26
catalyst | copper | 0.034 mole, 2.16 g | [Cu] | Cu
product | N-(4′-iodobiphenylyl)acetanilide | 40.2 g, yield: 64.8% | IC1=CC=C(C=C1)C1=C(C=CC=C1)N(C1=CC=CC=C1)C(C)=O | C20H16INO
